* C:\Users\pcruiher08\Desktop\Challenge 2 - EC2.asc
V1 N002 0 SINE(0 5 .795775 0 0 95)
C1 N003 N001 5
R2 N002 N001 5
R1 N002 N003 5
L1 N001 0 5
I1 N003 0 SINE(0 5 .795775 0 0 95)
.tran 10
.backanno
.end
